US08431607B2
(S)—N-(2-(3-(4-(4-chlorophenoxy)phenyl)-2-oxo-4-(3-(trifluoromethyl)phenyl)imidazolidin-1-yl)ethylsulfonyl)acetamide
To a solution of (S)-2-[3-[4-(4-chloro-phenoxy)-phenyl]-2-oxo-4-(3-trifluoromethyl-phenyl)-imidazolidin-1-yl]ethanesulfonic acid amide (20 mg, 0.037 mmol) and acetyl chloride (6 mg, 0.076 mmol) in anhydrous CH2Cl2 (1 mL) is added triethylamine (7.7 mg, 0.076 mmol). The mixture is stirred at room temperature for 14 h and is then concentrated to dryness. The residue is dissolved in EtOH and treated with NaOH (0.074 mmol, 1 M aqueous solution) for 1 h. The mixture is then treated with water (3 mL) and extracted with EtOAc (3×3 mL). The combined organic layers are concentrated and purified by flash column chromatography to provide the title compound as a white solid. 1H NMR (CDCl3, 400 MHz) δ 7.56 (m, 3H), 7.48 (m, 1H), 7.24 (d, J=8.8 Hz, 2H), 7.20 (d, J=8.8 Hz, 2H), 6.86 (d, J=9.2 Hz, 2H), 6.85 (d, J=8.8 Hz, 2H), 5.26 (dd, J=9.2, 6.8 Hz, 1H), 4.00 (t, J=9.2 Hz, 1H), 3.75-3.90 (m, 2H), 3.55-3.65 (m, 2H), 3.36 (dd, J=8.8, 6.8 Hz, 1H), 2.17 (s, 3H); HPLC-MS calculated for C26H23ClF3N3O5S (M+H+) 582.1, found 582.1.

reactant | (S)-2-[3-[4-(4-chloro-phenoxy)-phenyl]-2-oxo-4-(3-trifluoromethyl-phenyl)-imidazolidin-1-yl]ethanesulfonic acid amide | 0.037 mmol, 20 mg | ClC1=CC=C(OC2=CC=C(C=C2)N2C(N(C[C@@H]2C2=CC(=CC=C2)C(F)(F)F)CCS(=O)(=O)N)=O)C=C1 | C24H21ClF3N3O4S
reactant | acetyl chloride | 0.076 mmol, 6 mg | C(C)(=O)Cl | C2H3ClO
reactant | triethylamine | 0.076 mmol, 7.7 mg | C(C)N(CC)CC | C6H15N
reactant | NaOH | 0.074 mmol, 1 M | [OH-].[Na+]
solvent | CH2Cl2 | 1 mL | C(Cl)Cl | CH2Cl2
solvent | water | 3 mL | O | H2O
product | (S)—N-(2-(3-(4-(4-chlorophenoxy)phenyl)-2-oxo-4-(3-(trifluoromethyl)phenyl)imidazolidin-1-yl)ethylsulfonyl)acetamide | ClC1=CC=C(OC2=CC=C(C=C2)N2C(N(C[C@@H]2C2=CC(=CC=C2)C(F)(F)F)CCS(=O)(=O)NC(C)=O)=O)C=C1 | C26H23ClF3N3O5S
